US06239151B1
A solution of 0.907 g of 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide in 8 ml of dichloromethane was treated with 6 ml of trifluoroacetic acid. The mixture was stirred at room temperature for 2 hours and then the solvent was evaporated. The residue was dried in vacuo to give 2(R)-[3-benzamido-1(S)-(carboxy)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a pale orange oil.

reactant | 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide | 0.907 g | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NN(CC(C)C)C(CN1C=NC=C1)=O)CC(C)C | C30H45N5O5
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2(R)-[3-benzamido-1(S)-(carboxy)propyl]-2′-[2-(1H-imidazol-1-yl)acetyl]-2′-isobutyl-4-methylvalerohydrazide | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)O)[C@H](C(=O)NN(CC(C)C)C(CN1C=NC=C1)=O)CC(C)C | C26H37N5O5
